US08258144B2
A mixture of 1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide (125 mg, 0.288 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (100 mg, 0.456 mmol) and trimethylsilyl chloride (0.100 mL, 0.79 mmol) in n-BuOH (3 mL) was stirred at 116° C. for 20 h. n-BuOH was removed in vacuo. The residue was purified by HPLC to give 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide (12 mg).

reactant | 1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide | 0.288 mmol, 125 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)N2CC(CCC2)C(=O)N | C19H20ClN5O3S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.456 mmol, 100 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 0.79 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide | 12 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)N2CC(CCC2)C(=O)N | C31H36N8O4S
